US04219510
A mixture of 1-ethoxy-1,3-dihydro-2,1-benzoxaphosphole-1-oxide (4.0 g, 0.02 mole) in 15 ml. of water was heated on a steam bath for 1 hour. The reaction mixture was taken to dryness under vacuum and the residue recrystallized from acetone to yield 1-hydroxy-1,3-dihydro-2,1-benzoxaphosphole-1-oxide (3.4 g, 100% yield) as colorles crystals having a m.p. of 167° C. and the following analysis:

reactant | 1-ethoxy-1,3-dihydro-2,1-benzoxaphosphole-1-oxide | 0.02 mole, 4.0 g | C(C)OP1(OCC2=C1C=CC=C2)=O | C9H11O3P
solvent | water | O | H2O
product | 1-hydroxy-1,3-dihydro-2,1-benzoxaphosphole-1-oxide | 3.4 g, 100% yield | OP1(OCC2=C1C=CC=C2)=O | C7H7O3P
